US05500406
1.55 g (10 mmol) of 2-amino-4,6-dimethoxypyrimidine was dissolved in 30 ml of dry tetrahydrofuran, and 1.42 g (10 mmol) of chlorosulfonyl isocyanate was dropwise added thereto in a range of from -20° C. to -15° C. The reaction temperature was raised to 0° C., and the mixture was further stirred at the same temperature for 10 minutes. The reaction mixture was cooled again to -30° C., and a mixture comprising 2.84 g (11 mmol) of 3-methyl-2-iminothiazolidin-4-one hydroiodide, 2.22 g (22 mmol) of triethylamine and 30 ml of dry tetrahydrofuran, was added thereto. The reaction temperature was raised to room temperature, and the mixture was further stirred at the same temperature for 20 minutes. Then, the solvent was distilled off under reduced pressure, and then 100 ml of water was added to the obtained residue. Precipitated crystals were extracted three times with 100 ml of chloroform. The chloroform layer was washed with water and then dried over anhydrous sodium sulfate. Then, the solvent was distilled off under reduced pressure. Obtained crystals were washed with a solvent mixture of ethyl ether/acetonitrile and collected by filtration to obtain 1.5 g of desired 1-(3-methylthiazolidin-4-one-2-sulfonylimino)-3-(4,6-dimethoxypyrimidin-2-yl)urea as colorless crystals.

reactant | 2-amino-4,6-dimethoxypyrimidine | 10 mmol, 1.55 g | NC1=NC(=CC(=N1)OC)OC | C6H9N3O2
reactant | chlorosulfonyl isocyanate | 10 mmol, 1.42 g | ClS(=O)(=O)N=C=O | CClNO3S
reactant | 3-methyl-2-iminothiazolidin-4-one hydroiodide | 11 mmol, 2.84 g | I.CN1C(SCC1=O)=N
reactant | triethylamine | 22 mmol, 2.22 g | C(C)N(CC)CC | C6H15N
reactant | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | 1-(3-methylthiazolidin-4-one-2-sulfonylimino)-3-(4,6-dimethoxypyrimidin-2-yl)urea | 1.5 g | CN1C(SCC1=O)S(=O)(=O)N=NC(=O)NC1=NC(=CC(=N1)OC)OC | C11H14N6O6S2
